US04520196
A. 2-Methylamino-3-nitropyridine
25 g (0.16M) of 2-chloro-3-nitropyridine is dissolved in 200 ml dimethylformamide. For three hours monomethylamine is bubbled into the solution. The mixture is heated to reflux overnight. After the solvent is removed the oily residue is triturated with water and the solid is collected and air dried. The crude material is recrystallized from hexane to give 19.5 g (80% yield) of title compound, melting point 62°-3° C.

reactant | 2-chloro-3-nitropyridine | 0.16M, 25 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-Methylamino-3-nitropyridine | 19.5 g, 80% yield | CNC1=NC=CC=C1[N+](=O)[O-] | C6H7N3O2
